US09169254B2
Reagent A (2.85 mL, 3.709 mmol) was added dropwise to a solution of 4-bromo-3,3-difluoro-1,3-dihydro-indol-2-one (400 mg, 1.61 mmol) in tetrahydrofuran (8.1 mL) at 0° C. The mixture was stirred at 0° C. for 3.5 hours and at room temperature for 16 hours. Further, Reagent A (3.0 mL) was added to the reaction mixture, followed by stirring at room temperature for three hours. The reaction mixture was quenched with 3 M HCl (4.8 mL) and then extracted with ethyl acetate (×2). The organic layers were combined and sequentially washed with water and saturated brine, and then dried over sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to give 4-bromo-3-fluoro-1H-indole as a yellow oil (132 mg, 38%).

reactant | 4-bromo-3,3-difluoro-1,3-dihydro-indol-2-one | 1.61 mmol, 400 mg | BrC1=C2C(C(NC2=CC=C1)=O)(F)F | C8H4BrF2NO
solvent | tetrahydrofuran | 8.1 mL | O1CCCC1 | C4H8O
product | 4-bromo-3-fluoro-1H-indole | 132 mg, 38% | BrC1=C2C(=CNC2=CC=C1)F | C8H5BrFN
